US07947686B2
Step 3. Preparation of 4-fluoro-2-[((S)-2-methoxy-1-methyl-ethyl)-(2,2,2-trifluoroacetyl)-amino]-benzoic acid tert-butyl ester
A solution of 4-fluoro-2-((S)-2-methoxy-1-methyl-ethylamino)-benzoic acid tert-butyl ester (1.54 g, 5.44 mmol) in dichloromethane (30 mL) was cooled to 0°-5° C. Triethylamine (1.11 mL, 8.16 mmol) and trifluoroacetic anhydride (1.15 mL, 8.16 mmol) were added. After 3 hours at 0°-5° C. the mixture was washed with NaHCO3 saturated solution, water and brine. The organic layer was dried over sodium sulfate, filtered and evaporated to give the title compound as yellowish oil (2 g, 99%).

reactant | 4-fluoro-2-((S)-2-methoxy-1-methyl-ethylamino)-benzoic acid tert-butyl ester | 5.44 mmol, 1.54 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)F)N[C@H](COC)C)=O | C15H22FNO3
reactant | Triethylamine | 8.16 mmol, 1.11 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 8.16 mmol, 1.15 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-fluoro-2-[((S)-2-methoxy-1-methyl-ethyl)-(2,2,2-trifluoroacetyl)-amino]-benzoic acid tert-butyl ester | 2 g, 99% | C(C)(C)(C)OC(C1=C(C=C(C=C1)F)N(C(C(F)(F)F)=O)[C@H](COC)C)=O | C17H21F4NO4
